US06416926B1
Synthesis of poly(2-hydroxyethyl oxabicyclo[2,2,1]hept-5-ene-2-carboxylate/t-butyl 5-norbornene-2-carboxylate/maleic anhydride) polymer
2-hydroxyethyl oxabicyclo[2,2,1]hept-5-ene-2-carboxylate (0.15 mol), t-butyl 5-norbornene-2-carboxylate (0.85 mol), and maleic anhydride (1 mol) were dissolved in a tetrahydrofuran solvent. 2,2-azobisisobutyonitrile (5.84 g) was added, and the solution was mixed. The solution was polymerized at a temperature of 67° C. in a nitrogen atmosphere for 10 hours. After the polymerization reaction was completed, the polymer was precipitated in an ethyl ether solvent, then dried in a vacuum to obtain the pure title polymer (63.94 g). (yield: 22%, purity: 99.9%).

reactant | 2-hydroxyethyl oxabicyclo[2,2,1]hept-5-ene-2-carboxylate | 0.15 mol | C12C(OC(C=C1)C2)C(=O)OCCO | C9H12O4
reactant | t-butyl 5-norbornene-2-carboxylate | 0.85 mol | C12C(CC(C=C1)C2)C(=O)OC(C)(C)C | C12H18O2
reactant | maleic anhydride | 1 mol | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-hydroxyethyl oxabicyclo[2,2,1]hept-5-ene-2-carboxylate t-butyl 5-norbornene-2-carboxylate maleic anhydride | 63.94 g, yield: 22% | C12C(OC(C=C1)C2)C(=O)OCCO.C12C(CC(C=C1)C2)C(=O)OC(C)(C)C.C1(\C=C/C(=O)O1)=O | InChI=1S/C12H18O2.C9H12O4.C4H2O3/c1-12(2,3)14-11(13)10-7-8-4-5-9(10)6-8;10-3-4-12-9(11)8-6-1-2-7(5-6)13-8;5-3-1-2-4(6)7-3/h4-5,8-10H,6-7H2,1-3H3;1-2,6-8,10H,3-5H2;1-2H
